US07326786B2
Similar procedure as described in example 1b was used, starting from 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one, thiophene-2-carboximidamide hydrochloride and DIEA to give N-(4-oxo-5-quinolin-6-ylmethylene-4,5-dihydro-thiazol-2-yl)-thiophene-2-carboxamidine. LC-MS m/e 365 (MH+).

reactant | 2-methylsulfanyl-5-[1-quinolin-6-yl-meth-(Z)-ylidene]-thiazol-4-one | CSC=1S\C(\C(N1)=O)=C/C=1C=C2C=CC=NC2=CC1 | C14H10N2OS2
reactant | thiophene-2-carboximidamide hydrochloride | Cl.S1C(=CC=C1)C(N)=N
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | N-(4-oxo-5-quinolin-6-ylmethylene-4,5-dihydro-thiazol-2-yl)-thiophene-2-carboxamidine | O=C1N=C(SC1=CC=1C=C2C=CC=NC2=CC1)NC(=N)C=1SC=CC1 | C18H12N4OS2
